US07420056B2
1.32 g (14.1 mmol) of 2-aminopyrazine were dissolved together with 3.00 g (14.1 mmol) of 5-pyridin-2-ylethynyl-thiophene-2-carbaldehyde, 1.59 ml (14.1 mmol) of tert.-butyl-isonitrile and 2.07 g (4.2 mmol) of scandium(III) trifluoromethanesulfonate in chloroform (40 ml). The reaction solution was heated to 80° C. for 60 min in the microwave (800 watt, MLS-Ethos1600) and then diluted with DCM. Washing was then performed with a 1M Na2CO3 solution and a sat. aq. NaCl solution. The mixture was then dried over Na2SO4, filtered and evaporated under a vacuum. 3.43 g (9.2 mmol, 65%) of N-tert-butyl-2-(5-(pyridin-2-ylethynyl)thiophen-2-yl)imidazo[1,2-a]pyridin-3-amine were obtained by crystallisation of the group from EA.

reactant | 2-aminopyrazine | 14.1 mmol, 1.32 g | NC1=NC=CN=C1 | C4H5N3
reactant | 5-pyridin-2-ylethynyl-thiophene-2-carbaldehyde | 14.1 mmol, 3.00 g | N1=C(C=CC=C1)C#CC1=CC=C(S1)C=O | C12H7NOS
reactant | tert.-butyl-isonitrile | 14.1 mmol, 1.59 ml | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | EA | CC(OCC)=O | C4H8O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | scandium(III) trifluoromethanesulfonate | 4.2 mmol, 2.07 g | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | N-tert-butyl-2-(5-(pyridin-2-ylethynyl)thiophen-2-yl)imidazo[1,2-a]pyridin-3-amine | 9.2 mmol, 3.43 g, 65% | C(C)(C)(C)NC1=C(N=C2N1C=CC=C2)C=2SC(=CC2)C#CC2=NC=CC=C2 | C22H20N4S
